US08912200B2
1-(3-Ethynylbenzyl)-4-methylpiperazine
3-Ethynylbenzaldehyde (90 mg, 0.69 mmol) and 1-methylpiperazine (92 μL, 0.828 mmol) in 1,4-dioxane (2.6 mL), under a nitrogen atmosphere, at room temperature were treated first with TFA (128 μL, 1.66 mmol), then with sodium triacetoxyborohydride (210 mg, 1.035 mmol) and stirred for 5 h. EtOAc was added to the reaction mixture (20 mL) and 10% NH4OH (15 mL) was added drop wise. The organic layer was separated, dried over sodium sulfate and evaporated. Purification of the crude by flash chromatography over silica gel (DCM/7N NH3 in MeOH 9/1) afforded the title compound (56 mg, 38%).

reactant | 3-Ethynylbenzaldehyde | 0.69 mmol, 90 mg | C(#C)C=1C=C(C=O)C=CC1 | C9H6O
reactant | 1-methylpiperazine | 0.828 mmol, 92 μL | CN1CCNCC1 | C5H12N2
reactant | TFA | 1.66 mmol, 128 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium triacetoxyborohydride | 1.035 mmol, 210 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NH4OH | 15 mL | [NH4+].[OH-]
solvent | 1,4-dioxane | 2.6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-Ethynylbenzyl)-4-methylpiperazine | 56 mg, 38% | C(#C)C=1C=C(CN2CCN(CC2)C)C=CC1 | C14H18N2
